US04804665
8-Acetyl-2-methoxy-2,8-diazaspiro[4,5]decane-1,3-dione
To a solution of 2-methoxy-2,8-diazaspiro[4,5]decane-1,3-dione hydrochloride (2.35 g) in dimethylformamide (200 ml) was added triethylamine (2.8 ml), followed by acetyl chloride (0.8 ml), and this was followed by 30 minutes of stirring at room temperature. To the resulting residual oily substance dichloromethane (50 ml) was added, after which it was washed with 1N hydrochloric acid and then with water. After drying the organic layer with anhydrous magnesium sulfate, the solvent was evaporated under reduced pressure; the resulting residual solid was recrystallized from ethanol-ethyl ether to obtain 1.2 g of a colorless crystal having a melting point of from 153° to 157° C.

reactant | 2-methoxy-2,8-diazaspiro[4,5]decane-1,3-dione hydrochloride | 2.35 g | Cl.CON1C(C2(CC1=O)CCNCC2)=O
reactant | triethylamine | 2.8 ml | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 0.8 ml | C(C)(=O)Cl | C2H3ClO
reactant | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 8-Acetyl-2-methoxy-2,8-diazaspiro[4,5]decane-1,3-dione | 1.2 g | C(C)(=O)N1CCC2(CC(N(C2=O)OC)=O)CC1 | C11H16N2O4
